US08466282B2
1-tert-butyl 3-methyl(3R,5S)-5-{[(2-tert-butyl-4-(hex-1-yn-1-yl)pyrimidin-5-yl)carbonyl](2-methylpropyl)amino}piperidine-1,3-dicarboxylate
1-tert-Butyl 3-methyl(3R,5S)-5-{[(2-tert-butyl-4-chloropyrimidin-5-yl)carbonyl](isobutyl)amino}piperidine-1,3-dicarboxylate (300 mg), dichloro[bis(triphenylphosphine)]palladium (412 mg), copper iodide (112 mg) and N,N-diisopropylethylamine (0.51 μL) were dissolved in DMF (8 ml), and the mixture was stirred at room temperature for 15 min. 1-Hexyne (0.08 ml) was added and the mixture was stirred at room temperature 2 hr, and further at 70° C. for 8 hr. The mixture was cooled to room temperature, adsorbed to silica gel (10 g), and a fraction eluted with ethyl acetate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with hexane-ethyl acetate (95:5-30:70) was concentrated under reduced pressure to give the object product (218 mg).

reactant | 1-tert-Butyl 3-methyl(3R,5S)-5-{[(2-tert-butyl-4-chloropyrimidin-5-yl)carbonyl](isobutyl)amino}piperidine-1,3-dicarboxylate | 300 mg | C(C)(C)(C)C1=NC=C(C(=N1)Cl)C(=O)N([C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C25H39ClN4O5
reactant | N,N-diisopropylethylamine | 0.51 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Hexyne | 0.08 ml | C#CCCCC | C6H10
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
catalyst | copper iodide | 112 mg | [Cu](I)I
product | 1-tert-butyl 3-methyl(3R,5S)-5-{[(2-tert-butyl-4-(hex-1-yn-1-yl)pyrimidin-5-yl)carbonyl](2-methylpropyl)amino}piperidine-1,3-dicarboxylate | 218 mg | C(C)(C)(C)C1=NC=C(C(=N1)C#CCCCC)C(=O)N([C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C31H48N4O5
